US04563306
(3R)-1-Oxo-1,2,3,4-tetrahydrisoquinoline-3-carboxylic acid [J. Am. Chem. Soc., 84, 4487(1962)] (500 mg) is dissolved in DMF (8 ml), and N-hyroxysuccinimide (322 mg) and DCC (580 mg) are added thereto to 0° C. The mixture is stirred for 1.5 hours. L-Histidyl-L-prolinamide.2HBr (1.1 g) and triethylamine (1.1 ml) are added to the mixture, and the mixture is stirred for 2 days. Insoluble materials are filtered off, and the filtrate is distilled under reduced pressure to remove DMF. The residue is acidified with 10% HCl, washed with chloroform and then adjusted to pH 8 with sodium bicarbonate. The resulting solution is passed through a column (2×30 cm) packed with CHP-20P resin. The column is washed with water (one liter) and the product is eluted with 30% methanol. The fractions which are positive to Pauly reagent are collected, and the collected solution is distilled under reduced pressure to remove methanol. The residue is lyophilized, whereby Nα -[(3R)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-L-histidyl-L-prolinamide (480 mg) is obtained. Yield: 41.7%.

reactant | N-hyroxysuccinimide | 322 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 580 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | L-Histidyl-L-prolinamide | N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | C11H17N5O2
reactant | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | Nα -[(3R)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carbonyl]-L-histidyl-L-prolinamide | 480 mg, Yield: 41.7% | O=C1N[C@H](CC2=CC=CC=C12)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | C21H24N6O4
